US04810713
1-(3-Chloropropoxy)-4-sulfinylbenzene
The title compound is prepared by treating 1-(3-chloropropoxy)-4-methylthiobenzene with sodium perborate in glacial acetic acid.

reactant | 1-(3-chloropropoxy)-4-methylthiobenzene | ClCCCOC1=CC=C(C=C1)SC | C10H13ClOS
reactant | sodium perborate | B(=O)O[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(3-Chloropropoxy)-4-sulfinylbenzene | ClCCCOC1=CCC(C=C1)=S=O | C9H11ClO2S
